US07696223B2
a) 4-Methyl-2-pyridin-3-yl-thiazole-5-carboxylic acid ethyl ester
A mixture of thionicotinamide (10 g, 0.07 mol) and 2-chloro-3-oxo-butyric acid ethyl ester (10 mL, 0.07 mol) in ethanol (100 mL) was heated at refluxed for 20 h before it was cooled to room temperature and concentrated in vacuo. It was partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (12.2 g): MS: (+) m/z 249.0 (M+1).

reactant | thionicotinamide | 0.07 mol, 10 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | 2-chloro-3-oxo-butyric acid ethyl ester | 0.07 mol, 10 mL | C(C)OC(C(C(C)=O)Cl)=O | C6H9ClO3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Methyl-2-pyridin-3-yl-thiazole-5-carboxylic acid ethyl ester | 12.2 g | C(C)OC(=O)C1=C(N=C(S1)C=1C=NC=CC1)C | C12H12N2O2S
